US06936617B2
Kt-BuO (0.69 mL of 1 M in THF, 0.69 mmol) is added to a solution of 3-fluoro-(1H-imidazol-2-yl)benzene (88 mg, 0.58 mmol) in anhydrous DMA (1 mL). After 15 minutes, 2-chloromethyl-6-chloro-3-(1-propyl)-imidazolo[1,2-a]pyridine (140 mg, 0.58 mmol) is added and the reaction mixture is stirred and heated at 60° C. for 15 minutes. The reaction mixture is diluted with EtOAc (10 mL), washed with water (3 mL), brine (3 mL), dried over Na2SO4, filtered and evaporated at reduced pressure to obtain a yellow solid. Sequential chromatography on silica gel eluting with EtOAc and then 5%MeOH/CH2Cl2 provides 6-chloro-2-{[2-(3-fluoropheny)-1H-imidazol-1-yl]methyl}-3-propylimidazo[1,2-a]pyridine as a cream-colored yellow solid. TLC (10% MeOH/CH2Cl2) Rf=0.35.

reactant | 3-fluoro-(1H-imidazol-2-yl)benzene | 0.58 mmol, 88 mg | FC=1C=C(C=CC1)C=1NC=CN1 | C9H7FN2
reactant | 2-chloromethyl-6-chloro-3-(1-propyl)-imidazolo[1,2-a]pyridine | 0.58 mmol, 140 mg | ClCC=1N=C2N(C=C(C=C2)Cl)C1CCC | C11H12Cl2N2
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 6-chloro-2-{[2-(3-fluoropheny)-1H-imidazol-1-yl]methyl}-3-propylimidazo[1,2-a]pyridine | ClC=1C=CC=2N(C1)C(=C(N2)CN2C(=NC=C2)C2=CC(=CC=C2)F)CCC | C20H18ClFN4
